US05262427
1-Benzoyl-4-chloro-3-(5-methyl-3-isoxazolyl)-1,2,5,6-tetrahydropyridine
To a solution of 1-benzoyl-4-chloro-3-formyl-1,2,5,6-tetrahydropyridine oxime (5,3 g, 20 mmol) in 100 ml dry dimethylformamide was added N-bromosuccinimide (4.5 g, 25 mmol) dissolved in 20 ml dry dimethylformamide. The reaction mixture was stirred at room temperature for 1 h. Now 2-bromopropene (2.2 ml, 25 mmol) and 4 ml triethylamine were added and the reaction mixture stirred at room temperature for 48 h. The compound was purified as described for 1-Benzoyl-4-chloro-3-(5-methoxymethyl-3-isoxazolyl)-1,2,5,6-tetrahydropyridine. Yield: 3.1 g. M.p. 86°-87° C.

reactant | 1-benzoyl-4-chloro-3-formyl-1,2,5,6-tetrahydropyridine oxime | 20 mmol, 5,3 g | C(C1=CC=CC=C1)(=O)N1CC(=C(CC1)Cl)C=NO | C13H13ClN2O2
reactant | N-bromosuccinimide | 25 mmol, 4.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-bromopropene | 25 mmol, 2.2 ml | BrC(=C)C | C3H5Br
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-Benzoyl-4-chloro-3-(5-methyl-3-isoxazolyl)-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)(=O)N1CC(=C(CC1)Cl)C1=NOC(=C1)C | C16H15ClN2O2
